US05166170
2,2-Dimethyl-N-[2-(2,3-dihydro-1H-indol-2-yl)-4-chlorophenyl]propanamide
To a solution of 5.00 g 2-(2-amino-5-chlorophenyl)-2,3-dihydro-1H-indole in 70 ml CH2Cl2 at 10° C. were added 3.14 ml triethylamine and then dropwise 2.52 ml trimethylacetylchloride. The resulting solution was stirred for one hour at 10° C. and then quenched with water. The organic phase was separated, washed with 7.5% NaHCO3 and saturated NaCl, dried (MgSO4), and concentrated to yield 5.67 g solid. Recrystallization from cyclohexane yielded 3.09 g solid, m.p. 195°-198° C.

reactant | 2-(2-amino-5-chlorophenyl)-2,3-dihydro-1H-indole | 5.00 g | NC1=C(C=C(C=C1)Cl)C1NC2=CC=CC=C2C1 | C14H13ClN2
reactant | triethylamine | 3.14 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylacetylchloride | 2.52 ml | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | CH2Cl2 | 70 ml | C(Cl)Cl | CH2Cl2
product | 2,2-Dimethyl-N-[2-(2,3-dihydro-1H-indol-2-yl)-4-chlorophenyl]propanamide | 5.67 g | CC(C(=O)NC1=C(C=C(C=C1)Cl)C1NC2=CC=CC=C2C1)(C)C | C19H21ClN2O
